US05128355
2-Butyl-1-[(2'-carboxybiphenyl-4-yl)methyl]-4-chloro-5-(ethoxycarbonylaminomethyl)imidazole was prepared from 5-aminomethyl-2-n-butyl-1-[(2'-carboxybiphenyl-4-yl)methyl]-4-chloroimidazole using ethyl chloroformate and the Schotten-Baumann procedure described in Example 209, Part B: m.p. 144.0°-147.0°. NMR (200 MHz, DMSO-d6) δ 12.74 (s, 1H); 7.73 (d, 1H, J=7Hz); 7.63-7.27 (m, 5H); 7.03 (d, 2H, J=10Hz); 5.27 (s, 2H); 4.60 (bd, 2H, J=7Hz); 3.90 (q, 2H, J=7Hz); 3.34 (s, 2H); 2.47 (t, 2H J=7Hz); 1.48 (t of t, 2H, J=7,7Hz); 1.24 (t of q, 2H, J=7,7Hz); 1.06 (t, 3H, J=7Hz); 0.78 (t, 3H, J=7 Hz). Anal. Calcd. for C25H28ClN3O4.(H2O)0.33 : C, 63.17; H, 6.06; N, 8.83. Found: C, 63.30; H, 6.35; N, 8.44.

reactant | 5-aminomethyl-2-n-butyl-1-[(2'-carboxybiphenyl-4-yl)methyl]-4-chloroimidazole | NCC1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O)CCCC)Cl | C22H24ClN3O2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 2-Butyl-1-[(2'-carboxybiphenyl-4-yl)methyl]-4-chloro-5-(ethoxycarbonylaminomethyl)imidazole | C(CCC)C=1N(C(=C(N1)Cl)CNC(=O)OCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O | C25H28ClN3O4
